US05683964
Synthesis of N-(methylamino)-2,3-dimethylmaleimide [(II-2) intermediate for Synthesis Example 2]
2,3-Dimethylmaleic acid anhydride (3.5 g, 28 mM) was suspended in 50 ml of ethyl alcohol. To the dispersion was added methylhydrazine (1.28 g, 27.7 mM). After addition, the mixture was stirred at 70° C. for 3 hours. After ethanol was distilled away, the target compound was separated by chromatography from the reaction mixture.

reactant | 2,3-Dimethylmaleic acid anhydride | 28 mM, 3.5 g | C/C=1/C(=O)OC(\C1\C)=O | C6H6O3
reactant | methylhydrazine | 27.7 mM, 1.28 g | CNN | CH6N2
solvent | ethyl alcohol | 50 ml | C(C)O | C2H6O
product | N-(methylamino)-2,3-dimethylmaleimide | CNN1C(C(=C(C1=O)C)C)=O | C7H10N2O2
